data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5632,"OCC([O][Sn-]([Cl])([Cl])([Cl])[Cl])C1CC1C1CCC[C:1]([O:2][H:3])=[O+:4]1.[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,9270,"CC1CCC(C(C)C)C(C=CC(C)(C(C)C)[C:1]([O-])([N:2]=[N+:3]=[N-:4])[O:5]P(=O)(OC2=CC=CC=C2)OC2=CC=CC=C2)C1|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,6795,"CC(C)(C)C1=CC=C(C2=CC[C:1](C3=CC=C(C(C)(C)C)C=C3)([OH+:2][B-](F)(F)F)[O:3]2)C=C1.CCOCC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8926,"CO[CH:1]([NH3+:2])[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8544,"CC(C)[C:1]1([H:2])C=C[C+:3](Br)[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,9382,"COC1=C([N+:1](=NO)[H:2])C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7752,"CC(=O)O.CO.NC1=C([NH2:1])C=CC=C1.O=C1C2=CC3=C(C=CC=C3)C=C2[C:2]1=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8372,"C1=CC=C(C[Br:1])C=C1.[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,7107,"CCC(C)[O-:1].Cl[P:2](Cl)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5292,"CCN(CC)[C:1](=[OH+:2])[CH:3]=[CH2:4].CC[SH:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7707,"C1=CC=CC=C1.CC(=O)[O-:1].CC1=C[CH:2]([H:3])[C:4](C)=[N+:5]1CCOCCO.O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1792,"CC(=O)N1CCC(N2CCCC2)([OH:1])CC1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2088,"O=[N+]([O-])[CH:1]([H:2])[C:3](CC1=CC=CC=C1)=[O:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4366,"N#[C-:1].OCC[CH:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,938,"CCN[C:1](CCC(=O)NC)([OH:2])[OH+:3]CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8716,"O=S(=O)([O-])O.OC1(C[N:1]([H:2])[N:3]=[OH+:4])CC2C=CC1O2.[Na+].[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8320,"CC(=O)O[C:1](C)=[O:2].CC(C)(C)O.CCN(CC)CC.CN(C)C1=CC=[N:3]C=C1.CO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2917,"C=CCCC1CCCCC1=N[N:1](S([O-])([O-])C#CC#CC#CC#CC#CC#CC#CC)[H:2].CC[CH:3](C)[Li:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6786,"CC(=O)C[C:1](C)([NH+:2]1CCCC1)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3496,"C1=CC=C(C2(C3=CC=CC=C3)CCCCCC2=N[OH:1])C=C1.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5221,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CCO.CCOC(=O)C(CC(=O)C1=CC=CO1)(NNC1=CC(C#N)=CC=C1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1843,"CCC1=C(B2OC3=C(C=CC=C3)O2)C2=C(C=CC=C2)[C:1]([O:2][CH3:3])=[O+:4]1.[Cl-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,1066,"C[CH:1]([NH+:2](C)C)[O:3]C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1889,"CC1(C)C2CCC1(CS(=O)(=O)[O-])C(=O)C2.CC1=C(O)CCC2(C)C(=O)CCCC12[OH:1].NC(CC1=CC=CC=C1)C(=O)O.[NH3+]C(CC1=CC=CC=C1)C(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4505,"O=N[NH+:1](C1=CC=CC=C1C(=O)O)[H:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8340,"CO[C:1](=[CH:2]C)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3104,"C1CCN(C2([OH:1])CCCCC2)CC1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4710,"CC1=CC(C)=C(I)C(C)=C1.CC[C:1](C(=O)OCC1=[C:2]([Li:3])C=CC=C1)=[O:4]|((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,1580,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCC1=C[C:1]2(C[CH2:2]2)[CH:3]=[CH:4][C:5]1=[O+:6]C.OC=[O:7]|(7, 2);((2, 1), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,1823,"FC(F)(F)C1=C[C:1](Br)([H:2])[CH+:3]O1.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,8992,"CC1=CC=C(C(=O)[CH:1]([Si-:2](C)(C)(C)O[Si](C)(C)C)[P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1|((2, 1), 3)"
train,pmechdb_split_0,0,6394,"C[NH+](C)C1=C(Br)C=C[CH:1]=[CH:2]1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6845,"COC1=CC2=C(C=C1)CCN1C(=O)C=C3C=CC([O+](C)[K:1])CC321.O.[I-].[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,1790,"BrC1=C(CCC=[O+:1][H:2])N=CN=C1.O.O=C[O-:3].OCCCO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8853,"CCO[C:1]1([F:2])C=CC=C[C-:3]1[N+](=O)[O-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2162,"C[CH:1]1[CH2:2][P-:3](C)(C)(=O)[O:4]1|((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8115,"CC(N(C)C)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9228,"CSC(OC(=O)C(F)(F)F)C(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(OCC1=CC=CC=C1)[CH:1]([O:2]C(=O)C(F)(F)F)[S:3]C.O.O=C(O)C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3522,"CC(C)[O-].CCCCCC(C)[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,3000,"C=CC1=C(N[C:1](OC(=O)OC(C)(C)C)([N+:2]2=CC=C(N(C)C)C=C2)[O-:3])C=CC=C1.CC(C)(C)O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,728,"C1=CC=C([CH2:1][Br:2])C=C1.CN(C)C(N(C)C)=[NH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2107,"C[N:1](C)C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8480,"ClC1=C(Cl)[C:1](=[O:2])[C:3](=[CH:4][O:5][H:6])C=C1.O.[Cl-].[Na][OH:7].[OH2+][Na]|(7, 6);((6, 5), 4);((4, 3), 1);((1, 2), 2)"
